US03963313
A mixture of 11.8 g. of p-aminobenzonitrile and 16.2 g. of p-n-butylbenzaldehyde in 200 ml. of benzene is treated with 300 mg. of p-toluenesulfonic acid and reacted as described in Example 1. After the addition of 3 g. of solid potassium carbonate, the mixture is filtered and evaporated, whereby there are obtained 27.0 g. of a yellow oil which crystallizes with cooling. Purification is carried out by several recrystallizations from isopropanol as described in Example 1. The p-[(p-n-butylbenzyliden)amino]benzonitrile which is obtained has a melting point of 38.1°-38.7°C. and a clearing point of 62.6°C. UV (ethanol): ε280 = 24900 (shoulder at 314 nm). The nuclear magnetic resonance, mass spectrum, infrared and microanalysis data confirm the structure.

reactant | p-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | p-n-butylbenzaldehyde | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-[(p-n-butylbenzyliden)amino]benzonitrile | C(CCC)C1=CC=C(C=NC2=CC=C(C#N)C=C2)C=C1 | C18H18N2
